US05292747
A solution of 17.7 g of ethyl 2-(ethoxy-carbonyl)-2,3-dihydro-1-oxo-1H-pyrrolo[1,2-a]indole-2-acetate in 200 ml of methanol was treated under a nitrogen atmosphere with 1.5 g of 10% palladium-on-charcoal and 10 g of ammonium formate. The mixture was heated at reflux for 1.5 hours, then cooled and filtered. The filtrate was concentrated and the residue was partitioned between ethyl acetate and water. The organic layer was washed with sodium chloride solution and dried. Evaporation of the solvent gave 16.5 g of ethyl 2-(ethoxycarbonyl)-2,3-dihydro-1-hydroxy-1H-pyrrolo[1,2-a]indole-2-acetate

reactant | ethyl 2-(ethoxy-carbonyl)-2,3-dihydro-1-oxo-1H-pyrrolo[1,2-a]indole-2-acetate | 17.7 g | C(C)OC(=O)C1(C(C=2N(C=3C=CC=CC3C2)C1)=O)CC(=O)OCC | C18H19NO5
reactant | ammonium formate | 10 g | C(=O)[O-].[NH4+]
solvent | methanol | 200 ml | CO | CH4O
catalyst | palladium-on-charcoal | 1.5 g | [Pd] | Pd
product | ethyl 2-(ethoxycarbonyl)-2,3-dihydro-1-hydroxy-1H-pyrrolo[1,2-a]indole-2-acetate | 16.5 g | C(C)OC(=O)C1(C(C=2N(C=3C=CC=CC3C2)C1)O)CC(=O)OCC | C18H21NO5
